US04550169
A mixture of 26.4 g of tetrahydro-5-hydroxy-2(1H)-pyrimidinethione, 30 ml of ethyl bromide and 250 ml of ethanol was refluxed for 7 hours, clarified, diluted with 250 ml of ether and cooled to -10° C. The solid was crystallized twice from ether, giving 19.5 g of 2-(ethylthio)-1,4,5,6-tetrahydro-5-pyrimidinol, hydrobromide, mp 106°-108° C.

reactant | tetrahydro-5-hydroxy-2(1H)-pyrimidinethione | 26.4 g | OC1CNC(NC1)=S | C4H8N2OS
reactant | ethyl bromide | 30 ml | C(C)Br | C2H5Br
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-(ethylthio)-1,4,5,6-tetrahydro-5-pyrimidinol, hydrobromide | 19.5 g | Br.C(C)SC=1NCC(CN1)O | InChI=1S/C6H12N2OS.BrH/c1-2-10-6-7-3-5(9)4-8-6;/h5,9H,2-4H2,1H3,(H,7,8);1H
